US06759511B2
After 1-methyl-4-nitroimidazole-2-carboxylic acid ethyl ester (2.56 g, 12.85 mmol) was dissolved in EA (20 ml), 10% Pd/C (100 mg, catalytic weight) was added thereto. The mixture was stirred for 10 hours at room temperature under hydrogen atmosphere to reduce a nitro group (NO2) into an amino group (NH2), whereby an imidazole-type amino acid was obtained. 10% Pd/C was filtered out by celite 545 filter, and the filtrate was washed with EA and MeOH, and concentrated. To the residue were added carbonic acid 4-nitro-phenyl ester 2-(4-trifluoromethyl-phenylsulfanyl)-ethyl ester (4.52 g, 11.67 mmol) dissolved in anhydrous DCM (40 ml), DIEA (4.06 ml, 23.32 mmol), DMAP (2.85 g, 23.32 mmol), and HOBt (3.57 g, 23.32 mmol), and the mixture was stirred at room temperature. After 12 hours have passed, the reaction was stopped by adding water and the reaction mixture was extracted with DCM. The organic layer was dried over anhydrous MgSO4 and concentrated. The residue was purified by silica gel column chromatography (EA/n-hexane=1/2, v/v) to give 1-methyl-4-[2-(4-trifluoromethyl-phenylsulfanyl)-ethoxycarbonylamino]-1H-imidazole-2-carboxylic acid ethyl ester (3.77 g, 77.40%) of a white solid.

reactant | 1-methyl-4-nitroimidazole-2-carboxylic acid ethyl ester | 12.85 mmol, 2.56 g | C(C)OC(=O)C=1N(C=C(N1)[N+](=O)[O-])C | C7H9N3O4
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | carbonic acid 4-nitro-phenyl ester 2-(4-trifluoromethyl-phenylsulfanyl)-ethyl ester | 11.67 mmol, 4.52 g | FC(C1=CC=C(C=C1)SCCOC(OC1=CC=C(C=C1)[N+](=O)[O-])=O)(F)F | C16H12F3NO5S
reactant | DIEA | 23.32 mmol, 4.06 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 23.32 mmol, 3.57 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | EA | 20 ml | CC(OCC)=O | C4H8O2
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 23.32 mmol, 2.85 g | CN(C)C=1C=CN=CC1 | C7H10N2
catalyst | Pd/C | 100 mg | [Pd] | Pd
solvent | water | O | H2O
product | 1-methyl-4-[2-(4-trifluoromethyl-phenylsulfanyl)-ethoxycarbonylamino]-1H-imidazole-2-carboxylic acid ethyl ester | 3.77 g, 77.40% | C(C)OC(=O)C=1N(C=C(N1)NC(=O)OCCSC1=CC=C(C=C1)C(F)(F)F)C | C17H18F3N3O4S
